US07615642B2
Step B: tert-butyl[(3S)-1-({2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)pyrrolidin-3-yl]carbamate
Following the same procedure in Example 1, step A, using 2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazole-5-sulfonyl chloride (2 g, 5 mmol), N,N-diisopropylethylamine (3.5 mL, 20 mmol) and (3S)-(−)-3-(tert-butoxycarbonylamino)pyrrolidine (1.4 g, 7.5 mmol) in (10 mL) methylene chloride. The crude product was purified by MPLC on silica gel using 8-70% EtOAc/hexane. Yield: 2.77 g (100%). 1H NMR (400 MHz, METHANOL-D4) δ 1.35 (s, 9 H) 1.52 (d, J=11.72 Hz, 4 H) 1.58 (s, 9 H) 1.62-1.73 (m, 4 H) 1.75-1.81 (m, 1 H) 1.93-2.00 (m, 1 H) 3.03-3.10 (m, 1 H) 3.24-3.29 (m, 2 H) 3.35-3.47 (m, 3 H) 4.40 (d, J=7.42 Hz, 2 H) 7.71-7.78 (m, 2 H) 8.09 (d, J=1.37 Hz, 1 H).

reactant | 2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazole-5-sulfonyl chloride | 5 mmol, 2 g | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)S(=O)(=O)Cl | C18H23ClF2N2O2S
reactant | N,N-diisopropylethylamine | 20 mmol, 3.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (3S)-(−)-3-(tert-butoxycarbonylamino)pyrrolidine | 7.5 mmol, 1.4 g | C(C)(C)(C)OC(=O)N[C@@H]1CNCC1 | C9H18N2O2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl[(3S)-1-({2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)pyrrolidin-3-yl]carbamate | C(C)(C)(C)OC(N[C@@H]1CN(CC1)S(=O)(=O)C1=CC2=C(N(C(=N2)C(C)(C)C)CC2CCC(CC2)(F)F)C=C1)=O | C27H40F2N4O4S
